US07612212B2
To a solution of (2S,3S)-2-tert-butoxycarbonylamino-3-phenyl-butyric acid (838 mg, 3.0 mmol) in dichloromethane (10 mL) at −35° C. was added dry pyridine (255 μL, 3.15 mmol) and cyanuric fluoride (375 μL, 4.5 mmol) under an atmosphere of dry argon. The mixture was stirred for 1.5 hours while maintaining the temperature between −35 and −25° C. A small amount of ice was added to the reaction mixture and the mixture stirred vigorously for 15 minutes. The organic layer was decanted away from the aqueous solution and the aqueous layer extracted with dichloromethane (2×10 mL). The combined organic layers were washed with ice cold water (15 mL), dried over sodium sulfate, filtered and concentrated in vacuo to give (1-fluorocarbonyl-2-phenyl-propyl)-carbamic acid tert-butyl ester which was used in the subsequent step without further purification.

reactant | (2S,3S)-2-tert-butoxycarbonylamino-3-phenyl-butyric acid | 3.0 mmol, 838 mg | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)[C@@H](C)C1=CC=CC=C1 | C15H21NO4
reactant | pyridine | 3.15 mmol, 255 μL | N1=CC=CC=C1 | C5H5N
reactant | cyanuric fluoride | 4.5 mmol, 375 μL | N1=C(F)N=C(F)N=C1F | C3F3N3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (1-fluorocarbonyl-2-phenyl-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(C)C1=CC=CC=C1)C(=O)F)=O | C15H20FNO3
